US09233979B2
(R)-ethyl(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate (0.037 mmol) was taken up in TFA (1 ml) and the reaction mixture stirred at room temperature for 1 h. Triethylsilane (0.006 ml, 0.037 mmol) was added drop wise, and the reaction mixture stirred for an additional 5 minutes. The mixture was concentrated, re-dissolved in DMSO (1.5 mL) and submitted for purification by mass-triggered preparative HPLC to afford (R)-ethyl(6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate (5.7 mg, 0.015 mmol, 41.7% yield) as a white solid. MS ESI calc'd. For C18H21N6O3 [M+H]+ 369. found 369. 1H NMR (ppm, 600 MHz, DMSO): δ 8.95 (s, 1H); 7.78 (s, 1H); 7.42 (s, 1H); 7.30-7.31 (m, 4H); 7.19-7.22 (m, 1H); 4.85 (t, J=7.2 Hz, 1H); 4.14 (q, J=7.1 Hz, 2H); 1.39 (d, J=7.0 Hz, 3H); 1.22 (t, J=7.1 Hz, 3H).

reactant | (R)-ethyl(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | 0.037 mmol | C(C)OC(NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H34N6O3
reactant | Triethylsilane | 0.037 mmol, 0.006 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-ethyl(6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | 0.015 mmol, 5.7 mg, 41.7% yield | C(C)OC(NC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)=O | C18H20N6O3
